US04191838
320 parts of methacrylic acid, 4 parts of p-toluene-sulfonic acid, 1 parts of copper-II chloride and 1.6 parts of hydroquinone monomethyl ether are dissolved in 1,200 parts of chloroform in a reaction vessel equipped with a reflux condenser and stirrer, and the solution is heated to the boil. A solution of 344 parts of hydroxypivalaldehyde in 1,200 parts of chloroform is run into the boiling solution over 4 hours. After this addition, 4 parts of 96% strength sulfuric acid are added and the water formed during the reaction is distilled off azeotropically. After completion of the reaction, and after cooling, the reaction mixture is washed with dilute aqueous sodium bicarbonate solution. After distilling off the chloroform under reduced pressure until the boiling point reaches 45° C., the residue is distilled in a thin film evaporator at 95° C./0.4 mm Hg. 274 parts of methacryloxypivalaldehyde (48% of theory, based on hydroxyaldehyde) of boiling point 51°-56° C./0.3 mm Hg are obtained. Analyses:

reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
reactant | p-toluene-sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | hydroquinone monomethyl ether | COC1=CC=C(O)C=C1 | C7H8O2
reactant | hydroxypivalaldehyde | OCC(C=O)(C)C | C5H10O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | copper | [Cu] | Cu
solvent | water | O | H2O
product | methacryloxypivalaldehyde | 48% | C(C(=C)C)(=O)OCC(C=O)(C)C | C9H14O3
